US05610145
9-Azido-nonanoic acid
9-Bromo-nonanoic acid (3.82 g, 17 mmol) was dissolved in DMF (30 mL) and sodium azide (1.11 g, 17 mmol) was added. The solution was heated to 80° C. and stirred overnight. The reaction was poured onto ice and extracted with DCM (3×200 mL). The combined extracts were washed with water (3×200 mL), brine (200 mL), and dried over MgSO4. The solvent was removed in vacuo to give a clear oil 2.83 g (84% yield);

reactant | 9-Bromo-nonanoic acid | 17 mmol, 3.82 g | BrCCCCCCCCC(=O)O | C9H17BrO2
reactant | sodium azide | 17 mmol, 1.11 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 9-Azido-nonanoic acid | 2.83 g, 84% yield | N(=[N+]=[N-])CCCCCCCCC(=O)O | C9H17N3O2
